US07964623B2
6-[(1,1-dimethyl-2-propynyl)oxy]quinoline
A solution of 2-methyl-3-butyn-2-ol (2.45 mL, 25.1 mmol) and 1,8-diazabicyclo-[5.4.0]-7-undecene (4.25 mL, 28.4 mmol) in acetonitrile (15.5 mL) was stirred 0° C. for 30 minutes, and anhydrous trifluoroacetic acid (3.55 mL, 25.1 mmol) was added dropwise. The resulting mixture was added dropwise to a mixed solution of 6-hydroxyquinoline (2.43 g, 16.7 mmol), copper (I) chloride (8.3 mg, 0.0835 mmol), acetonitrile (15.5 mL) and 1,8-diazabicyclo-[5.4.0]-7-undecene (4.25 mL, 28.4 mmol) at 0° C., and stirred at 0° C. for 3 hours. The resulting solution was acidified with 1 mol/L HCl and extracted with ethyl acetate, and the resulting aqueous phase was neutralized with sodium hydrogencarbonate aqueous solution, extracted with ethyl acetate, and dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by column chromatography (hexane/ethyl acetate=1/1 to 1/3) and the aimed product was obtained.

reactant | 2-methyl-3-butyn-2-ol | 25.1 mmol, 2.45 mL | CC(C)(C#C)O | C5H8O
reactant | trifluoroacetic acid | 25.1 mmol, 3.55 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 6-hydroxyquinoline | 16.7 mmol, 2.43 g | OC=1C=C2C=CC=NC2=CC1 | C9H7NO
reactant | HCl | 1 mol/L | Cl | ClH
solvent | acetonitrile | 15.5 mL | C(C)#N | C2H3N
catalyst | copper (I) chloride | 0.0835 mmol, 8.3 mg | [Cu]Cl
solvent | acetonitrile | 15.5 mL | C(C)#N | C2H3N
product | 6-[(1,1-dimethyl-2-propynyl)oxy]quinoline | CC(C#C)(C)OC=1C=C2C=CC=NC2=CC1 | C14H13NO
